US09416115B2
Methyl 5-bromosalicylate (5 g, 21.6 mmol), 4-(trifluoromethoxy)phenylboronic acid (4.43 g, 21.6 mmol), potassium carbonate (10 g) and [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (800 mg, 1.09 mmol) were combined in 10 mL DMF. 5 mL water was added and the mixture was stirred at 50° C. for 60 minutes. The reaction mixture was diluted with 300 mL ethyl acetate, washed with water and brine and evaporated under vacuum. Flash chromatographic purification on 120 g silica gel with 0-100% ethyl acetate in hexane gave methyl 4-hydroxy-4′-(trifluoromethoxy)-[1,1′-biphenyl]-3-carboxylate (5.7 g, 18.3 mmol).

reactant | Methyl 5-bromosalicylate | 21.6 mmol, 5 g | BrC1=CC=C(C(C(=O)OC)=C1)O | C8H7BrO3
reactant | 4-(trifluoromethoxy)phenylboronic acid | 21.6 mmol, 4.43 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 1.09 mmol, 800 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 4-hydroxy-4′-(trifluoromethoxy)-[1,1′-biphenyl]-3-carboxylate | 18.3 mmol, 5.7 g | OC1=C(C=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)C(=O)OC | C15H11F3O4
